### PR TITLE
[Merged by Bors] - feat(BigOperators/Ring): add `Finset.prod_neg`

### PR DESCRIPTION
**Pull request by urkud**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/BigOperators/Ring/Finset.lean [hunk 1]
```diff
@@ -26,6 +26,10 @@ variable {ι ι' α β γ : Type*} {κ : ι → Type*} {s s₁ s₂ : Finset ι}
 
 namespace Finset
 
+@[simp]
+lemma prod_neg [CommMonoid α] [HasDistribNeg α] : ∏ x ∈ s, (-f x) = (-1) ^ #s * ∏ x ∈ s, f x := by
```
Comment (YaelDillies) [inline Mathlib/Algebra/BigOperators/Ring/Finset.lean:30]:
```suggestion
lemma prod_neg [CommMonoid α] [HasDistribNeg α] : ∏ x ∈ s, -f x = (-1) ^ #s * ∏ x ∈ s, f x := by
```

**Review by YaelDillies — APPROVED** [review]
I doubt this lemma should be simp, because rewriting with it turns one `s` on the LHS into two on the RHS. Apart from that, looks good, yes!

maintainer delegate

File: Mathlib/Algebra/BigOperators/Ring/Finset.lean [hunk 2]
```diff
@@ -243,7 +247,7 @@ variable [CommRing α]
 `g` over a subset `t` times the product of `f` over the complement of `t` times `(-1) ^ #t`. -/
 lemma prod_sub [DecidableEq ι] (f g : ι → α) (s : Finset ι) :
     ∏ i ∈ s, (f i - g i) = ∑ t ∈ s.powerset, (-1) ^ #t * (∏ i ∈ s \ t, f i) * ∏ i ∈ t, g i := by
-  simp [sub_eq_neg_add, prod_add, ← prod_const, ← prod_mul_distrib, mul_right_comm]
+  simp [sub_eq_neg_add, prod_add, mul_right_comm]
```
Comment (urkud) [inline Mathlib/Algebra/BigOperators/Ring/Finset.lean:250]:
```suggestion
  simp [sub_eq_neg_add, prod_add, prod_neg, mul_right_comm]
```

**Comment by b-mehta** [comment]
Thanks!

bors merge
